US07718808B2
4-Methoxybenzyl alcohol (11.9 mL, 95.2 mmol) was dissolved in DMF (150 mL), and at 0° C., 55% sodium hydride (4.15 g, 95.2 mmol) was added thereto, followed by stirring at room temperature for 1 hour. A DMF (10 mL) solution of 6-chloronicotinic acid (5.00 g, 31.7 mmol) was added to the reaction mixture, followed by stirring at 80° C. for 2 hours. Water (200 mL) was added to the reaction mixture, and 4 mol/L hydrochloric acid (30 mL) was added dropwise thereto, and the precipitated solid was collected by filtration to afford 6-(4-methoxybenzyloxy)nicotinic acid (8.15 g, 99%).

reactant | 4-Methoxybenzyl alcohol | 95.2 mmol, 11.9 mL | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | sodium hydride | 95.2 mmol, 4.15 g | [H-].[Na+]
reactant | 6-chloronicotinic acid | 31.7 mmol, 5.00 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | hydrochloric acid | 4 mol/L, 30 mL | Cl | ClH
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 200 mL | O | H2O
product | 6-(4-methoxybenzyloxy)nicotinic acid | 8.15 g, 99% | COC1=CC=C(COC2=NC=C(C(=O)O)C=C2)C=C1 | C14H13NO4
